US07915443B2
(S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide
To a degassed solution of 10.0 mL DMF at room temperature was added (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (1.02 g, 3.0 mmol), triethylamine (1.3 mL, 9.0 mmol), trimethylsilylacetylene (0.83 mL, 6.0 mmol), and dichlorobis(triphenylphosphine)palladium(II) (211 mg, 0.3 mmol). After 15 minutes added copper(I) iodide (29 mg, 0.15 mmol) and continued reaction for 4 hours. The reaction was then partitioned between EtOAc and H2O. The EtOAc layer was washed with saturated NaHCO3, brine, dried with anhydrous Na2SO4 and rotary evaporated to 20 ml volume. The solution was placed overnight in the refrigerator and the resulting solid filtered and rinsed with 40% EtOAc/hexane to give the title compound (674 mg) as a tan solid. The filtrate was evaporated and purified by chromatography (silica gel, eluting with hexane/EtOAc) to give an additional 301 mg of the title compound. The product lots were combined and purified by chromatography (silica gel, eluting with hexane/EtOAc) to give the title compound as a tan solid (959 mg, 90%).

reactant | (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 3.0 mmol, 1.02 g | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
reactant | triethylamine | 9.0 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 6.0 mmol, 0.83 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.3 mmol, 211 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.15 mmol, 29 mg | [Cu]I
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide | 674 mg | C[S@@](=NC(C1=CN=CC(=C1)C#C[Si](C)(C)C)=O)(C1=CC=CC=C1)=O | C18H20N2O2SSi
